US07834000B2
The mixture of tert-butyl 3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate (20 g, 66.4 mmol) and MeOH/HCl (2.5 mol/L, 100 mL) were stirred overnight. After evaporation the residue was washed by petroleum ether to provide spiro[indene-1,4′-piperidin]-3(2H)-one hydrochloride (15.4 g, 97.6%).

reactant | tert-butyl 3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate | 66.4 mmol, 20 g | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C12 | C18H23NO3
reactant | MeOH HCl | 2.5 mol/L, 100 mL | CO.Cl
product | spiro[indene-1,4′-piperidin]-3(2H)-one hydrochloride | 15.4 g, 97.6% | Cl.N1CCC2(CC1)CC(C1=CC=CC=C12)=O | InChI=1S/C13H15NO.ClH/c15-12-9-13(5-7-14-8-6-13)11-4-2-1-3-10(11)12;/h1-4,14H,5-9H2;1H
